US04153611
5,6,7,8-Tetrahydro=4H-cyclohepta[b]thiophen-4-one is converted to N-(5,6,7,8-tetrahydro-4H-cyclohepta[b]thien-4-yl)formamide, m.p. 164°-166° C., by the method of Xloetzel et al., Journal of Organic Chemistry 18, 1511 (1953). Hydrolysis of the formanide is accomplished by refluxing for one hour in 1 N hydrochloric acid and evaporating to dryness to afford 5,6,7,8-tetrahydro-4H-cyclohepta[b]thiophen-4-amine hydrochloride, m.p. 233°-236° C. dec. The amine hydrochloride is then allowed to react with methyl isocyanate in dry tetrahydrofuran as solvent in the presence of a stoichiometric equivalent of triethylamine to afford 1-methyl-3-(5,6,7,8-tetrahydro-4H-cyclohepta[b]thien-4-yl)urea, m.p. 220°-222° C.

reactant | 4H-cyclohepta[b]thiophen-4-one | S1C2=C(C=C1)C(C=CC=C2)=O | C9H6OS
reactant | N-(5,6,7,8-tetrahydro-4H-cyclohepta[b]thien-4-yl)formamide | S1C2=C(C=C1)C(CCCC2)NC=O | C10H13NOS
reactant | hydrochloric acid | 1 N | Cl | ClH
product | 5,6,7,8-tetrahydro-4H-cyclohepta[b]thiophen-4-amine hydrochloride | Cl.S1C2=C(C=C1)C(CCCC2)N | InChI=1S/C9H13NS.ClH/c10-8-3-1-2-4-9-7(8)5-6-11-9;/h5-6,8H,1-4,10H2;1H
